US05324710
30.0 g of methyl 2-chloro-6-methylpyrimidine-4-carboxylate are added to a solution of 4.2 g of sodium in 100 ml of methanol. The mixture is heated under reflux for 2 h and concentrated under reduced pressure, and the residue is taken upon in dichloromethane/water. The organic phase is separated off and the aqueous solution is extracted a further five times using dichloromethane. The combined organic extracts are dried over sodium sulfate and the solvent is distilled off under reduced pressure. 25.5 g of methyl 2-methoxy-6-methylpyrimidine-4-carboxylate of melting point 101°-103° C. are obtained in this way.

reactant | methyl 2-chloro-6-methylpyrimidine-4-carboxylate | 30.0 g | ClC1=NC(=CC(=N1)C(=O)OC)C | C7H7ClN2O2
reactant | sodium | 4.2 g | [Na] | Na
reactant | methanol | 100 ml | CO | CH4O
product | methyl 2-methoxy-6-methylpyrimidine-4-carboxylate | 25.5 g | COC1=NC(=CC(=N1)C(=O)OC)C | C8H10N2O3
